US07612211B2
B. 2-tert-butoxycarbonylamino-5-(2-tert-butylaminosulfonyl-phenyl)-phenyl carbamic acid tert-butyl ester
A solution of (5-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester (4.0 g, 10.3 mmol), 2-(tert-butylaminosulfonyl)-phenyl boronic acid (5.3 g; 20.6 mmol), PdCl2 dppf (1.7 g, 0.20 mmol) and 1M Na2CO3 solution (83 mL, 82.7 mmol) in 1,2-dimethoxyethane was heated to 90° C. for 12 h under inert atmosphere. The reaction mixture was cooled to room temperature and concentrated under reduced pressure. The residue was purified by chromatography (silica, EtOAc: hexanes, 3:7) to afford the title compound as a yellow viscous oil (5.4 g, quantitative yield). 1H NMR (400 MHz, CDCl3) δ (ppm): 8.14 (m, 1H), 7.88 (m, 1H), 7.43-7.69 (m, 6H), 7.19 (m, 1H), 7.28 (m, 1H), 1.52 (s, 9H), 1.48 (s, 9H), 1.06 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calcd. For C26H37N3O6S: 520.65 (M+H), Found 520.1.

reactant | (5-bromo-2-tert-butoxycarbonylamino-phenyl)-carbamic acid tert-butyl ester | 10.3 mmol, 4.0 g | C(C)(C)(C)OC(NC1=C(C=CC(=C1)Br)NC(=O)OC(C)(C)C)=O | C16H23BrN2O4
reactant | 2-(tert-butylaminosulfonyl)-phenyl boronic acid | 20.6 mmol, 5.3 g | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)B(O)O | C10H16BNO4S
reactant | Na2CO3 | 82.7 mmol, 1M, 83 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
catalyst | PdCl2 dppf | 0.20 mmol, 1.7 g | Cl[Pd]Cl.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-tert-butoxycarbonylamino-5-(2-tert-butylaminosulfonyl-phenyl)-phenyl carbamic acid tert-butyl ester | 5.4 g, quantitative yield | C(C)(C)(C)OC(NC1=C(C=CC(=C1)C1=C(C=CC=C1)S(=O)(=O)NC(C)(C)C)NC(=O)OC(C)(C)C)=O | C26H37N3O6S
